US08247576B2
9C. {3-(3,4-Difluoro-phenyl)-3-[4-(1H-pyrazol-4-yl)-phenyl]-propyl}-methyl-amine
Lithium aluminium hydride was added to a suspension of 3-(3,4-Difluoro-phenyl)-N-methyl-3-[4-(1H-pyrazol-4-yl)-phenyl]-propionamide in diethyl ether, followed by a solution of aluminium chloride in diethyl ether at 0° C., under a nitrogen atmosphere. Toluene was added and the reaction mixture was heated at 70° C. for 18 hours. Upon cooling the reaction was quenched with addition of water, basified (2N NaOH) and extracted with ethyl acetate. The organic layer was separated, dried (MgSO4), filtered and concentrated to afford the desired compound. LC/MS: (PS-A2) Rt 2.15 [M+H]+ 328.06. 1H NMR (Me-d3-OD) δ 2.19-2.29 (2H, m), 2.35 (3H, s), 2.51 (2H, t), 4.00 (1H, t), 7.06-7.24 (3H, m), 7.27 (2H, d), 7.52 (2H, d), 7.92 (2H, s).

reactant | Lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(3,4-Difluoro-phenyl)-N-methyl-3-[4-(1H-pyrazol-4-yl)-phenyl]-propionamide | FC=1C=C(C=CC1F)C(CC(=O)NC)C1=CC=C(C=C1)C=1C=NNC1 | C19H17F2N3O
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | {3-(3,4-Difluoro-phenyl)-3-[4-(1H-pyrazol-4-yl)-phenyl]-propyl}-methyl-amine | FC=1C=C(C=CC1F)C(CCNC)C1=CC=C(C=C1)C=1C=NNC1 | C19H19F2N3
